Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
 UTERINE PROLAPSE, CYSTOCELE, STRESS INCONTINENCE 
 
Major Surgical or Invasive Procedure:
ROBOT ASSISTED LAPAROSCOPIC SUPRACERVICAL HYSTERECTOMY, 
BILATERAL SALPINGO-OOPHORECTOMY, SACROCERVICOPEXY, SUB-URETHRAL 
SLING PROCEDURE, AND CYSTOSCOPY

 
Physical Exam:
Physical exam at discharge
============================
Vitals
24 HR Data (last updated ___ @ 458)
    Temp: 98.2 (Tm 98.8), BP: 132/78 (124-136/69-79), HR: 68
(64-72), RR: 18 (___), O2 sat: 94% (93-94), O2 delivery: Ra

Fluid Balance (last updated ___ @ 459)
  Last 8 hours  Total cumulative 335ml
    IN: Total 600ml, PO Amt 600ml
    OUT:  Total 265ml, Urine Amt 265ml
  Last 24 hours  Total cumulative -1170ml
    IN: Total 720ml, PO Amt 720ml
    OUT:  Total 1890ml, Urine Amt 1590ml, trial void back fill
300ml

General: NAD, A&Ox3
CV: RRR, no m/r/g
RESP: CTAB, no respiratory distress, normal work of breathing
Abd: normoactive bowel sounds, soft, mildly distended,
appropriately tender, no rebound or guarding
Incision/Dressings: clean, dry, and intact, no drainage
Foley: In place, draining clear yellow urine 
Extremities: no calf tenderness, wwp, pboots on and active
bilaterally

 
Pertinent Results:
___ 09:10AM   PLT COUNT-225
___ 09:10AM   WBC-6.9 RBC-5.18 HGB-15.0 HCT-47.2* MCV-91 
MCH-29.0 MCHC-31.8* RDW-13.7 RDWSD-45.9
 
Brief Hospital Course:
Ms. ___ was admitted to the GYN service on ___ after 
undergoing a robot-assisted laparoscopic supracervical 
hysterectomy, bilateral salpingo-oophorectomy, sacrocervicopexy, 
suburethral sling, and cystoscopy.  Please see OMR for complete 
details.

Immediately postoperatively her pain was controlled with IV 
Toradol and morphine.  A Foley catheter was kept in place, and 
her diet was advanced without complication.  She was continued 
on sertraline for her anxiety.

On postop day 1 she was transitioned to oral oxycodone, 
acetaminophen, ibuprofen for pain control.  She underwent a 
backfill trial of void, which she failed.  In brief 200 cc of 
sterile saline was infused into the bladder, and after 30 
minutes she was unable to void, and was straight catheterized 
for 400 cc.  She ambulated without difficulty, her pain was 
controlled on p.o. medication, she was otherwise meeting 
milestones for discharge.  In the afternoon on postop day 1 she 
underwent a repeat trial of void, which she again failed.  
Briefly 300 cc of saline was infused into the bladder, and she 
was unable to void over 30 minutes, and a foley catheter was 
placed for 400 cc and kept overnight.  She felt dizzy, and a CBC 
and chemistry were sent, which were within normal limits.

On postop day 2, she was tolerating regular diet, pain was 
controlled with p.o. medication, she was ambulating without 
difficulty, her dizziness remained mild and stable. She was 
discharged home with a Foley catheter and a scheduled voiding 
trial in the office on ___.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*50 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours as 
needed Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ or 1 tablet(s) by mouth every 4 hours as 
needed Disp #*20 Tablet Refills:*0 
5.  Phenazopyridine 100 mg PO TID Duration: 1 Day 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times a 
day Disp #*15 Tablet Refills:*0 
6.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*20 Tablet Refills:*0 
7.  Sertraline 75 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Foley Catheter:
*) You were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. You were also given 
a prescription for Macrodantin (nitrofurantoin) antibiotic to 
prevent a UTI while you have the catheter. Please take as 
prescribed. You should follow-up in Dr. ___ on ___ 
for catheter removal. Please call for an appointment.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Since you have steri-strips, leave them on. They will fall off 
on their own or be removed during your follow-up visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___